US05789416
Preparation of N-benzyloxycarbonyl-3-aminotetrahydrofuran
A mixture of 3-tetrahydrofuroic acid (3.5 gm, 30 mmol), diphenylphosphorylazide (6.82 ml, 32 mmol), triethylamine (5 ml, 36 mmol) in dioxane (35 ml) was stirred at RT for 20 min then heated in a 100° C. oil bath under dry nitrogen for 2 hours. Benzyl alcohol (4.7 ml, 45 mmol) was added, and continued heating at 100° C. for 22 hours. The mixture was cooled, filtered from a white precipitate and concentrated. The residue was dissolved in 2N HCI and extracted twice using EtOAc. The extracts were washed with water, sodium bicarbonate, brine dried over MgSO4, and then concentrated to an oil which solidifies upon standing. The oil was chromatographed (30% to 60% EtOAc/Hex) to give 3.4 g of an oil (51%).

reactant | 3-tetrahydrofuroic acid | 30 mmol, 3.5 gm | O1CC(CC1)C(=O)O | C5H8O3
reactant | diphenylphosphorylazide | 32 mmol, 6.82 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 36 mmol, 5 ml | C(C)N(CC)CC | C6H15N
reactant | Benzyl alcohol | 45 mmol, 4.7 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | N-benzyloxycarbonyl-3-aminotetrahydrofuran | 3.4 g, 51% | C(C1=CC=CC=C1)OC(=O)NC1COCC1 | C12H15NO3
